US06939887B2
Synthesis of ethyl 2,4-dichlorophenyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate
Ethyl 2,4-dichlorophenylcarbamate (1.206 g) was dissolved in tetrahydrofuran (15 ml), and to the solution were added sodium hydride (206.0 mg) and 2-chloro-3,5-dinitrobenzotrifluoride (1.161 g). The reaction mixture was stirred at room temperature for 4 hours. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by silica gel column (75 g, hexane:ethyl acetate=5:1) to give the title compound (1.4490 g, 72%).

reactant | Ethyl 2,4-dichlorophenylcarbamate | 1.206 g | ClC1=C(C=CC(=C1)Cl)NC(OCC)=O | C9H9Cl2NO2
reactant | sodium hydride | 206.0 mg | [H-].[Na+]
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 1.161 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl 2,4-dichlorophenyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate | 1.4490 g, 72% | ClC1=C(C=CC(=C1)Cl)N(C(OCC)=O)C1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C16H10Cl2F3N3O6
